US08247403B2
(2) 9-(3,3-difluoropyrrolidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine
A mixture of tert-butyl 9-(3,3-difluoropyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (110 mg, 0.310 mmol), ethyl acetate (2 ml) and 4N hydrogen chloride-ethyl acetate solution (2 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was added to 1N aqueous sodium hydroxide solution (2 ml), and the mixture was extracted with ethyl acetate:tetrahydrofuran (1:1). The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (41.0 mg, 52.0%) as a solid.

reactant | tert-butyl 9-(3,3-difluoropyrrolidin-1-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.310 mmol, 110 mg | FC1(CN(CC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)F | C18H24F2N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 2 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 9-(3,3-difluoropyrrolidin-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 41.0 mg, 52.0% | FC1(CN(CC1)C1=CC=CC=2CNCCOC21)F | C13H16F2N2O
